US04028404
(4-cyclohexylcarbonylphenyl) acetic acid
4-cyclohexylcarbonylphenylacetonitrile (1.5 g.), water (1.5 ml.), concentrated sulphuric acid (1.5 ml.) and acetic acid (1.5 ml.) were heated under reflux for 6 hours, cooled, poured into water and extracted with ether. Removal of the solvent and crystallisation from cyclohexane gave the acid, m.p. 94°-95.5°.

reactant | 4-cyclohexylcarbonylphenylacetonitrile | 1.5 g | C1(CCCCC1)C(=O)C1=CC=C(C=C1)CC#N | C15H17NO
reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 1.5 ml | O | H2O
product | (4-cyclohexylcarbonylphenyl) acetic acid | C1(CCCCC1)C(=O)C1=CC=C(C=C1)CC(=O)O | C15H18O3
